US06413971B1
4-(6-Chloro2,3dihydro-indol-1-yl)-7H-pyrrolo[2,3-d]pyrimidine
To 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (10.0 g, 0.065 mol) in dry pyridine (90 ml) was added 6chloro2,3dihydroindol-1-yl amine (14.8 g, 0.078 mol), and the mixture was heated in an 85° C. oil bath for 2 days. The reaction was cooled to ambient temperature and concentrated in vacuo. The resulting residue was purified by flash chromatography on silica gel (375 g, 40 mm mesh) using 5% MeOH/CH2Cl2 to afford the title compound as a pink-orange solid (1.1 g, 4.3%): HRMS: Calculated 271.0750, Found 271.0729; anal. RP18-HPLC RT: 4.88 minutes.

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 0.065 mol, 10.0 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | 6chloro2,3dihydroindol-1-yl amine | 0.078 mol, 14.8 g | ClC1=CC=C2CCN(C2=C1)N | C8H9ClN2
solvent | pyridine | 90 ml | N1=CC=CC=C1 | C5H5N
product | 4-(6-Chloro2,3dihydro-indol-1-yl)-7H-pyrrolo[2,3-d]pyrimidine | 1.1 g, 4.3% | ClC1=CC=C2CCN(C2=C1)C=1C2=C(N=CN1)NC=C2 | C14H11ClN4
